US07645773B2
Tetrakis(triphenylphosphine)palladium (0.54 g, 0.48 mmol, 2.2% mol eq) was added to a degassed (nitrogen) mixture of 2-bromo-thiazole-4-carboxylic acid ethyl ester (Combi-Blocks, Inc., San Diego, Calif.; 5 g, 21.2 mmol), 1-methoxy-6-flurophenylboronic acid (4.68 g, 27.56 mmol), and sodium carbonate(23 mL, 2 M solution in water) in DME (100 mL) and DMF (100 mL). The reaction mixture was refluxed under inert atmosphere overnight. After cooling to room temperature, the reaction mixture was filtered through celite, and water and EtOAc were added. The aqueous layer was separated, acidified with conc. HCl to pH 2 and then was extracted three times with EtOAc. The combined EtOAc layers were dried under vacuum. The residue was chromatographed on silica, eluting with EtOAc/Hexane (0-30% gradient) to give 2-(2-fluoro-6-methoxy-phenyl)-thiazole-4-carboxylic acid (4.5 g) which was used directly in the next step.

reactant | 2-bromo-thiazole-4-carboxylic acid ethyl ester | 21.2 mmol, 5 g | C(C)OC(=O)C=1N=C(SC1)Br | C6H6BrNO2S
reactant | 1-methoxy-6-flurophenylboronic acid | 27.56 mmol, 4.68 g | COC1(CC=CC=C1F)B(O)O | C7H10BFO3
reactant | sodium carbonate | 2 M, 23 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 100 mL | COCCOC | C4H10O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium | 0.48 mmol, 0.54 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-fluoro-6-methoxy-phenyl)-thiazole-4-carboxylic acid | 4.5 g | FC1=C(C(=CC=C1)OC)C=1SC=C(N1)C(=O)O | C11H8FNO3S
